US05374772
A mixture of 1.0 g (2.45 mmol) of 3-hydroxy-5-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester, 0.73 ml (2.69 mmol) of 1-bromotetradecane and 0.7 g (4.9 mmol) of potassium carbonate in 20 ml of anhydrous DMF was stirred and heated at 80° for 22 hours. The usual workup followed by chromatography on 30 g of silica gel using 10% ethyl acetate-hexane, trituration of the combined pure fractions with methanol and filtration gave 1.37 g (93% yield, mp 69°-70°) of 3-[3-[4-(phenylmethoxy)phenoxy]propoxy]-5-(tetradecyloxy)benzoic acid methyl ester.

reactant | 3-hydroxy-5-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester | 2.45 mmol, 1.0 g | COC(C1=CC(=CC(=C1)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)O)=O | C24H24O6
reactant | 1-bromotetradecane | 2.69 mmol, 0.73 ml | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 4.9 mmol, 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[3-[4-(phenylmethoxy)phenoxy]propoxy]-5-(tetradecyloxy)benzoic acid methyl ester | 1.37 g, 93% yield | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C38H52O6
